### PR TITLE
[Merged by Bors] - feat(UniqueProds): subsingleton and MulOpposite lemmas

### PR DESCRIPTION
**Pull request by adomani**
Basic support for `subsingleton` and `MulOpposites`.  Helps #6723.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 1]
```diff
@@ -169,6 +173,15 @@ theorem mulHom_map_iff (f : G ↪ H) (mul : ∀ x y, f (x * y) = f x * f y) :
 #align unique_mul.mul_hom_map_iff UniqueMul.mulHom_map_iff
 #align unique_add.add_hom_map_iff UniqueAdd.addHom_map_iff
 
+open Finset MulOpposite in
+@[to_additive]
+theorem of_mulOpposite (h : @UniqueMul Gᵐᵒᵖ (MulOpposite.mul G)
+      (B.map ⟨_, op_injective⟩) (A.map ⟨_, op_injective⟩) (op b0) (op a0)) :
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/UniqueProds.lean:179]: Does this not work?
```suggestion
theorem of_mulOpposite (h : UniqueMul Gᵐᵒᵖ
      (B.map ⟨_, op_injective⟩) (A.map ⟨_, op_injective⟩) (op b0) (op a0)) :
```

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 2]
```diff
@@ -229,3 +242,21 @@ instance (priority := 100) Covariants.to_uniqueProds {A} [Mul A] [LinearOrder A]
...
+namespace UniqueProds
+
+@[to_additive (attr := nontriviality, simp)]
+theorem of_subsingleton {G : Type*} [Mul G] [Subsingleton G] :
+    UniqueProds G :=
+⟨fun {A B} ⟨a, hA⟩ ⟨b, hB⟩ ↦ ⟨a, hA, b, hB, by simp⟩⟩
+
+open Finset MulOpposite in
+@[to_additive]
+theorem of_mulOpposite (G : Type*) [Mul G] (h : @UniqueProds Gᵐᵒᵖ (MulOpposite.mul G)) :
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/UniqueProds.lean:255]: Again, why is @ necessary?
```suggestion
theorem of_mulOpposite (G : Type*) [Mul G] (h : @UniqueProds Gᵐᵒᵖ (MulOpposite.mul G)) :
```

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:179]: I am not sure.  I initially had a version with `image`, but then I needed a `DecidableEq` assumption.  You may be right that the `@` was needed in an intermediate version, but not now.  Feel free to push the better version, if it works (I'm on mobile now and won't be able to check until tomorrow).

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 3]
```diff
@@ -165,6 +169,15 @@ theorem mulHom_map_iff (f : G ↪ H) (mul : ∀ x y, f (x * y) = f x * f y) :
 #align unique_mul.mul_hom_map_iff UniqueMul.mulHom_map_iff
 #align unique_add.add_hom_map_iff UniqueAdd.addHom_map_iff
 
+open Finset MulOpposite in
+@[to_additive]
+theorem of_mulOpposite
+    (h : UniqueMul (B.map ⟨_, op_injective⟩) (A.map ⟨_, op_injective⟩) (op b0) (op a0)) :
+    UniqueMul A B a0 b0 := by
+  intros a b aA bB ab
+  have := h (mem_map_of_mem _ bB) (mem_map_of_mem _ aA) (by erw [← op_mul, ab, op_mul])
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/UniqueProds.lean:178]: This could be
```suggestion
  have := h (mem_map_of_mem _ bB) (mem_map_of_mem _ aA) (by rw [coeFn_mk, ← op_mul, ab, op_mul])
```
or
```suggestion
  have := h (mem_map_of_mem _ bB) (mem_map_of_mem _ aA) (by simpa using congr_arg op ab)
```

**Review by Ruben-VandeVelde — APPROVED** [review]
lgtm

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 4]
```diff
@@ -165,6 +169,15 @@ theorem mulHom_map_iff (f : G ↪ H) (mul : ∀ x y, f (x * y) = f x * f y) :
...
 #align unique_add.add_hom_map_iff UniqueAdd.addHom_map_iff
 
+open Finset MulOpposite in
+@[to_additive]
+theorem of_mulOpposite
+    (h : UniqueMul (B.map ⟨_, op_injective⟩) (A.map ⟨_, op_injective⟩) (op b0) (op a0)) :
+    UniqueMul A B a0 b0 := by
+  intros a b aA bB ab
+  have := h (mem_map_of_mem _ bB) (mem_map_of_mem _ aA) (by simpa using congr_arg op ab)
+  simpa [and_comm] using this
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/UniqueProds.lean:179]: Can you make that an iff?

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 5]
```diff
@@ -212,8 +225,26 @@ is 'very monotone', then `A` also has `UniqueSums`."]
...
+
+@[to_additive (attr := nontriviality, simp)]
+theorem of_subsingleton {G : Type*} [Mul G] [Subsingleton G] :
+    UniqueProds G :=
+  ⟨fun {A B} ⟨a, hA⟩ ⟨b, hB⟩ ↦ ⟨a, hA, b, hB, by simp⟩⟩
+
+open Finset MulOpposite in
+@[to_additive]
+theorem of_mulOpposite (G : Type*) [Mul G] (h : UniqueProds Gᵐᵒᵖ) :
+    UniqueProds G :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/UniqueProds.lean:244]: Same here

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 4 above)
Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:179]: Yaël, thank you for both suggestions: they are in now!

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 5 above)
Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:258]: Added!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 6]
```diff
@@ -165,6 +169,29 @@ theorem mulHom_map_iff (f : G ↪ H) (mul : ∀ x y, f (x * y) = f x * f y) :
...
+    UniqueMul (B.map ⟨_, op_injective⟩) (A.map ⟨_, op_injective⟩) (op b0) (op a0) ↔
+      UniqueMul A B a0 b0 := by
+  refine ⟨of_mulOpposite, fun h ↦ of_mulOpposite (G := MulOpposite G) <| fun a b ha hb hab ↦ ?_⟩
+  simp only [mem_map, Function.Embedding.coeFn_mk, exists_exists_and_eq_and] at ha hb
+  rcases ha with ⟨a, ha, rfl⟩
+  rcases hb with ⟨b, hb, rfl⟩
+  rw [op_inj, op_inj, op_inj, op_inj]
+  apply h ha hb ?_
+  apply_fun op ∘ op using op_injective.comp op_injective
+  exact hab
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/UniqueProds.lean:193]: For dot notation, I think you might as well extract this reverse direction to a standalone lemma.

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 7]
```diff
@@ -212,8 +239,44 @@ is 'very monotone', then `A` also has `UniqueSums`."]
...
+      eq_and_eq_of_le_of_le_of_mul_le (Finset.min'_le _ _ ‹_›) (Finset.min'_le _ _ ‹_›) ab.le⟩
 #align covariants.to_unique_prods Covariants.to_uniqueProds
 #align covariants.to_unique_sums Covariants.to_uniqueSums
+
+namespace UniqueProds
+
+@[to_additive (attr := nontriviality, simp)]
+theorem of_subsingleton {G : Type*} [Mul G] [Subsingleton G] :
+    UniqueProds G :=
+  ⟨fun {A B} ⟨a, hA⟩ ⟨b, hB⟩ ↦ ⟨a, hA, b, hB, by simp⟩⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/UniqueProds.lean:253]: maybe more readable as
```suggestion
theorem of_subsingleton {G : Type*} [Mul G] [Subsingleton G] : UniqueProds G where
  uniqueMul_of_nonempty {A B} | ⟨a, hA⟩ ⟨b, hB⟩ => ⟨a, hA, b, hB, by simp⟩
```
(untested)

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 8]
```diff
@@ -212,8 +239,44 @@ is 'very monotone', then `A` also has `UniqueSums`."]
...
+@[to_additive]
+theorem of_mulOpposite (G : Type*) [Mul G] (h : UniqueProds Gᵐᵒᵖ) :
+    UniqueProds G :=
+  ⟨fun hA hB =>
+    let f : G ↪ Gᵐᵒᵖ := ⟨op, op_injective⟩
+    let ⟨y, yB, x, xA, hxy⟩ := h.uniqueMul_of_nonempty (hB.map (f := f)) (hA.map (f := f))
+    ⟨unop x, (mem_map' _).mp xA, unop y, (mem_map' _).mp yB, hxy.of_mulOpposite⟩⟩
+
+open MulOpposite in
+@[to_additive]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/UniqueProds.lean:265]:
```suggestion
@[to_additive (attrs := simp)]
```

**Comment by adomani** [comment]
Eric, your comments are great!  However, I just left my computer for about half an hour: I'll produce a further PR incorporating them, since in the meanwhile bors is merging!

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 6 above)
Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean]: Add `to_mulOpposite` with the proof and then used `ot/to_mulOpposite` as proofs of the `iff`.

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 7 above)
Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean]: It turns out that you need a comma between the angle brackets.

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 8 above)
Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean]: Thanks! (`attr`, rather than `attrs`, but `to_additive` is kind and it tells you!)

**Comment by adomani** [comment]
Eric, given that there were conflicts, I went ahead and incorporated your suggestions in this PR.  The conflicts are with #6677.  I tried implementing the change just in this file from that PR, but I think that it needs some of the earlier stuff too.

One of the two PRs should go first, and I do not really have a preference of which one it is!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
